US05843948
15.1 g of 1-(4-hydroxyphenyl)piperazine, 9.4 g of lithium carbonate and 10.4 g of 4-fluorobenzonitrile in 250 ml of dimethyl sulfoxide were reacted at 80° C. for 4 hours under a nitrogen atmosphere. After fresh addition of 3.0 g of 4-fluorobenzonitrile, the mixture was heated at 80° C. for a further 4 hours and the precipitated product was filtered out with suction after cooling the reaction mixture. To separate the co-precipitated lithium carbonate, the crude product was then stirred with aqueous citric acid. After filtering out with suction and drying in a vacuum oven at 60° C., 18.7 g of 4-[4-(4-cyanophenyl)-1-piperazinyl]phenol were obtained, m.p.=258°-262° C.

reactant | 1-(4-hydroxyphenyl)piperazine | 15.1 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | lithium carbonate | 9.4 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | 4-fluorobenzonitrile | 10.4 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-fluorobenzonitrile | 3.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 4-[4-(4-cyanophenyl)-1-piperazinyl]phenol | 18.7 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C17H17N3O
